US09029531B2
Step A: sodium 2-(2-methoxythiazol-4-yl)acetate
A solution of methyl 2-(2-bromothiazol-4-yl)acetate (80 mg, 0.34 mmol), and sodium methanolate (300 mg) in MeOH was stirred at 85° C. overnight. Then the reaction mixture was concentrated to give the desired product. 1H NMR (METHANOL-d4) δ: 4.04 (s, 3H), 3.47 (d, J=1.1 Hz, 2H), 3.37 (s, 1H). LC-MS: m/z (M+H)=174.2

reactant | methyl 2-(2-bromothiazol-4-yl)acetate | 0.34 mmol, 80 mg | BrC=1SC=C(N1)CC(=O)OC | C6H6BrNO2S
reactant | sodium methanolate | 300 mg | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | sodium 2-(2-methoxythiazol-4-yl)acetate | COC=1SC=C(N1)CC(=O)[O-].[Na+] | InChI=1S/C6H7NO3S.Na/c1-10-6-7-4(3-11-6)2-5(8)9;/h3H,2H2,1H3,(H,8,9);/q;+1/p-1
